US07915271B2
A mixture of 4-(2-fluoro-4-methoxyphenyl)piperidine (200 mg; 0.957 mmol) and N,N-diisopropylethylamine (183 μL; 1.053 mmol) was treated with di-tert-butyldicarbonate (230 mg; 1.053 mmol) as described earlier to afford tert-butyl 4-(2-fluoro-4-methoxyphenyl)piperidine-1-carboxylate as a colorless oil. LCMS=254.0 (M+1−100+44)+. 1H NMR (CDCl3, 500 MHz) δ 7.07 (t, J=8.7 Hz, 1H), 6.65 (dd, J=8.5, 2.3 Hz, 1H), 6.59 (dd, J=12.3, 2.3 Hz, 1H), 4.23 (br s, 2H), 3.78 (s, 3H), 2.91 (tt, J=12.2, 3.2 Hz, 1H), 2.84-2.76 (m, 2H), 1.79-1.75 (m, 2H), 1.65-1.56 (m, 2×), 1.48 (s, 9H).

reactant | 4-(2-fluoro-4-methoxyphenyl)piperidine | 0.957 mmol, 200 mg | FC1=C(C=CC(=C1)OC)C1CCNCC1 | C12H16FNO
reactant | N,N-diisopropylethylamine | 1.053 mmol, 183 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 1.053 mmol, 230 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | tert-butyl 4-(2-fluoro-4-methoxyphenyl)piperidine-1-carboxylate | FC1=C(C=CC(=C1)OC)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24FNO3
